US04585770
A solution of 19 g of 1,3-dihydro-1-(1-methylethenyl)-2H-benzimidazol-2-one [described in J. Chem. Soc. Perkins, 1982, p. 261] in 150 ml of dimethylformamide was added with stirring at 20° C.±2° C. to 5.75 g of sodium hydride as a 50% suspension in oil and 10 ml of dimethylformamide and the mixture was stirred for another 30 minutes. 23.4 g of ethyl 4-bromo-butyrate were added to the mixture over 15 minutes and the mixture was stirred at room temperature for 4 hours and was poured into 800 ml of iced water. The mixture was extracted with ether and the organic phase was washed with water, dried and evaporated to dryness under reduced pressure to obtain 33 g of ethyl 2,3-dihydro-3-(1-methyl-ethenyl)-2-oxo-1H-benzimidazol-1-butanoate.

reactant | 1,3-dihydro-1-(1-methylethenyl)-2H-benzimidazol-2-one | 19 g | CC(=C)N1C(NC2=C1C=CC=C2)=O | C10H10N2O
reactant | sodium hydride | 5.75 g | [H-].[Na+]
reactant | ethyl 4-bromo-butyrate | 23.4 g | BrCCCC(=O)OCC | C6H11BrO2
reactant | water | 800 ml | O | H2O
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | ethyl 2,3-dihydro-3-(1-methyl-ethenyl)-2-oxo-1H-benzimidazol-1-butanoate | 33 g | CC(=C)N1C(N(C2=C1C=CC=C2)CCCC(=O)OCC)=O | C16H20N2O3
